US04196208
A solution of 4 g. (8.7 m moles) 2-ethoxycarbonyl)vinyl 4-(hexadecylamino)benzoate and 400 mg. 10% Pd(C) in 100 ml. tetrahydrofuran is hydrogenated at 50 psi until hydrogen uptake stops. The catalyst is filtered, the solution is evaporated, and the residue is crystallized from acetonitrile to yield 2-(ethoxycarbonyl)ethyl 4-(hexadecylamino)benzoate.

reactant | vinyl 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC=C)C=C1 | C25H41NO2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(ethoxycarbonyl)ethyl 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCCC(=O)OCC)C=C1 | C28H47NO4
